US07932277B2
Step 3: Synthesis of (1R,2S)-1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylic acid
The crude (1R,2S)-ethyl 1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylate (130 mg, 0.20 mmol) was dissolved in 1.0 mL of a mixture of THF:MeOH:H2O (2:1:1). Lithium hydroxide monohydrate (0.050 g, 1.2 mmol) was added and reaction stirred at rt overnight. The reaction was then concentrated under vacuum and quenched with 5 mL of 1 N HCl. The product precipitated and could be filtered off giving an off-white powder (110 mg). It was directly used in the next step without further purification. MS m/e 619 (M−−H).

reactant | (1R,2S)-ethyl 1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylate | 0.20 mmol, 130 mg | ClC=1C=C(OC=2C=C3CC(N(CC3=CC2)C([C@H](C(C)(C)C)NC2=CC=C(C=C2)F)=O)C(=O)N[C@]2([C@@H](C2)C=C)C(=O)OCC)C=CC1 | C36H39ClFN3O5
reactant | Lithium hydroxide monohydrate | 1.2 mmol, 0.050 g | O.[OH-].[Li+]
solvent | THF MeOH H2O | C1CCOC1.CO.O
product | (1R,2S)-1-(6-(3-chlorophenoxy)-2-((S)-2-(4-fluorophenylamino)-3,3-dimethylbutanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamido)-2-vinylcyclopropanecarboxylic acid | 110 mg | ClC=1C=C(OC=2C=C3CC(N(CC3=CC2)C([C@H](C(C)(C)C)NC2=CC=C(C=C2)F)=O)C(=O)N[C@]2([C@@H](C2)C=C)C(=O)O)C=CC1 | C34H35ClFN3O5
